US08217032B2
Combine 2-benzyloxy-1-bromo-6-methoxy-naphthalene (31 g, 90 mmol), 4-(2-azepan-1-yl-ethoxy)-phenol (31 g, 132 mmol), copper bronze (12 g, 189 mmol), potassium carbonate (25 g, 181 mmol) and pyridine (400 ml). Heat the reaction mixture to reflux for 85 hours. Coot and filter the residue with celite and elute with methanol and methylene chloride (500 mL, V/V=1:5). Evaporate solvent under reduced pressure and chromatograph the residue on a silica gel column eluting the material with a step gradient of methanol/dichloromethane (0 to 10%) to get 19 g (43%) of 1-{2-[4-(2-benzyloxy-6-methoxy-naphthalen-1-yloxy)-phenoxy]ethyl}-azepane.

reactant | 2-benzyloxy-1-bromo-6-methoxy-naphthalene | 90 mmol, 31 g | C(C1=CC=CC=C1)OC1=C(C2=CC=C(C=C2C=C1)OC)Br | C18H15BrO2
reactant | 4-(2-azepan-1-yl-ethoxy)-phenol | 132 mmol, 31 g | N1(CCCCCC1)CCOC1=CC=C(C=C1)O | C14H21NO2
reactant | potassium carbonate | 181 mmol, 25 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper bronze | 189 mmol, 12 g | [Cu] | Cu
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 1-{2-[4-(2-benzyloxy-6-methoxy-naphthalen-1-yloxy)-phenoxy]ethyl}-azepane | 19 g, 43% | C(C1=CC=CC=C1)OC1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCCC2)C=C1 | C32H35NO4
